US07501425B1
7-(4-Diethylamino-butylamino)-3-(3,5-dimethoxy-phenyl)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
A suspension of 0.2261 g (0.65 mmol) of 3-(3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.103 g (0.71 mmol) of diethylaminobutylamine in 10 mL of dry dioxane was warmed to 60° C. and stirred overnight. To the reaction mixture was added 0.306 g (2.13 mmol) of diethylaminobutylamine and 0.1658 g (0.71 mmol) of camphorsulfonic acid. The reaction mixture was stirred for another 18 hours at 60° C. The reaction solution was concentrated in vacuo, and the residue was partitioned between ethyl acetate and a saturated solution of sodium bicarbonate. The ethyl acetate layer was washed with a saturated solution of sodium bicarbonate, then with water, dried over magnesium sulfate, and concentrated in vacuo. The residue was chromatographed down silica gel, eluting with ethyl acetate/ethanol/triethylamine (9:2:1 v/v/v) to give 0.173 g (62%) of the title compound: mp 203-207° C.

reactant | 3-(3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.65 mmol, 0.2261 g | COC=1C=C(C=C(C1)OC)N1C(NC2=NC(=NC=C2C1)S(=O)C)=O | C15H16N4O4S
reactant | diethylaminobutylamine | 0.71 mmol, 0.103 g | C(C)N(CC)CCCCN | C8H20N2
reactant | diethylaminobutylamine | 2.13 mmol, 0.306 g | C(C)N(CC)CCCCN | C8H20N2
reactant | camphorsulfonic acid | 0.71 mmol, 0.1658 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 7-(4-Diethylamino-butylamino)-3-(3,5-dimethoxy-phenyl)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.173 g, 62% | C(C)N(CCCCNC1=NC=C2C(=N1)NC(N(C2)C2=CC(=CC(=C2)OC)OC)=O)CC | C22H32N6O3
